US08541461B2
42B. [2-(4-Bromo-phenyl)-2-(4-chloro-phenyl)-ethyl]-methyl-amine
Aluminium chloride (278 mg, 2.087 mmol) was added portionwise to a stirred solution of 1-(4-Bromo-phenyl)-2-methylamino-ethanol (160 mg, 0.696 mmol) in chlorobenzene (3 ml) and the reaction mixture stirred at room temperature for 17 hours. Water (2 ml) was added dropwise and the reaction mixture was then partitioned between dichloromethane (100 ml) and saturated NaHCO3 (30 ml). The organic layer was dried (MgSO4), filtered and concentrated under reduced pressure. The crude product was then purified by Phenomenex_Strata_SCX column chromatography eluting with methanol followed by 2N ammonia in methanol to afford the desired product. LC/MS: (PS-B3) Rt 3.58 [M+H]+ 324.

reactant | Aluminium chloride | 2.087 mmol, 278 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-(4-Bromo-phenyl)-2-methylamino-ethanol | 0.696 mmol, 160 mg | BrC1=CC=C(C=C1)C(CNC)O | C9H12BrNO
reactant | Water | 2 ml | O | H2O
solvent | chlorobenzene | 3 ml | ClC1=CC=CC=C1 | C6H5Cl
product | [2-(4-Bromo-phenyl)-2-(4-chloro-phenyl)-ethyl]-methyl-amine | BrC1=CC=C(C=C1)C(CNC)C1=CC=C(C=C1)Cl | C15H15BrClN
